US04448962
A mixture of 4-bromo-3-chloroaniline (8.3 g) and diethyl ethoxymethylene malonate (8.9 g) was heated at 120°-130° C. for 1.5 hours. The mixture was added to diphenyl ether (140 ml) and refluxed for 30 minutes. The cooled mixture was filtered, the solid was washed with benzene and dried. The solid was recrystallized from DMF to give 6-bromo-7-chloro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid ethyl ester (11.7 g).

reactant | 4-bromo-3-chloroaniline | 8.3 g | BrC1=C(C=C(N)C=C1)Cl | C6H5BrClN
reactant | diethyl ethoxymethylene malonate | 8.9 g | CCOC=C(C(=O)OCC)C(=O)OCC | C10H16O5
solvent | diphenyl ether | 140 ml | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
product | 6-bromo-7-chloro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid ethyl ester | 11.7 g | C(C)OC(=O)C1=CNC2=CC(=C(C=C2C1=O)Br)Cl | C12H9BrClNO3
